US05152918
4-(Trans-4-n-propylcyclohexyl)cyclohexanone (449 g), phenol (756 g) and CaCl (446 g) were mixed, followed by gradually dropwise adding conc. hydrochloric acid (335 ml) with vigorous stirring at room temperature, further agitating the mixture for 30 minutes after completion of the dropwise addition, allowing the resulting material to stand at room temperature, further for 50 hours, adding hot water (2 l) and toluene (3 l), heating the mixture, cooling, filtering off crystals, washing the crystals with water and then with toluene, drying the crystals and recrystallizing from tetrahydrofuran solvent to obtain white crystals of 1,1-bis(4-hydroxyphenyl)-4-(trans-4-n-propylcyclohexyl)cyclohexane as a diol compound of the present invention (436 g). M.P.: 222.0°-222.8° C.

reactant | 4-(Trans-4-n-propylcyclohexyl)cyclohexanone | 449 g | C(CC)[C@@H]1CC[C@H](CC1)C1CCC(CC1)=O | C15H26O
reactant | phenol | 756 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrochloric acid | 335 ml | Cl | ClH
reactant | water | 2 l | O | H2O
solvent | toluene | 3 l | C1(=CC=CC=C1)C | C7H8
product | 1,1-bis(4-hydroxyphenyl)-4-(trans-4-n-propylcyclohexyl)cyclohexane | OC1=CC=C(C=C1)C1(CCC(CC1)[C@@H]1CC[C@H](CC1)CCC)C1=CC=C(C=C1)O | C27H36O2
